US08383629B2
2-(7-chloro-1′(2-(2-(trifluoromethyl)phenyl)acetyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetic acid
The title compound was prepared following a procedure analogous to that described in Example 1 using 2-(2-(trifluoromethyl)phenyl)acetic acid and ethyl 2-(7-chloro-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetate. LC-MS Method 1 tR=1.83, min, m/z=468, 466

reactant | 2-(2-(trifluoromethyl)phenyl)acetic acid | FC(C1=C(C=CC=C1)CC(=O)O)(F)F | C9H7F3O2
reactant | ethyl 2-(7-chloro-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetate | ClC=1C=CC=C2C(CC3(CCNCC3)C12)CC(=O)OCC | C17H22ClNO2
product | 2-(7-chloro-1′(2-(2-(trifluoromethyl)phenyl)acetyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetic acid | ClC=1C=CC=C2C(CC3(CCN(CC3)C(CC3=C(C=CC=C3)C(F)(F)F)=O)C12)CC(=O)O | C24H23ClF3NO3
